data/polar.json
{"reaction_name": "Triazene-to-aryl halide conversion", "rsmi": "[Cl:12][H:13].[cH:1]1[cH:6][cH:2][cH:8][c:3]([N:4]=[N:5][N:9]([CH3:10])[CH3:11])[cH:7]1>>[N:4]#[N:5].[N:9]([CH3:10])([CH3:11])[H:13].[cH:1]1[cH:6][cH:2][cH:8][c:3]([Cl:12])[cH:7]1", "epd": [["LP-/Sigma+", [12], [3, 12]], ["Sigma-/LP+", [3, 4], [4]], ["LP-/Pi+", [4], [4, 5]], ["Sigma-/LP+", [5, 9], [9]], ["LP-/Sigma+", [9], [9, 13]], ["Sigma-/LP+", [12, 13], [12]]]}
{"reaction_name": "Steglich esterification", "rsmi": "[CH3:5][N:7]=[C:9]=[N:8][CH3:6].[O:1]=[C:2]([CH3:3])[O:11][H:13].[O:4]([CH3:10])[H:12]>>[CH3:5][N:7]([C:9]([N:8]([CH3:6])[H:13])=[O:11])[H:12].[O:1]=[C:2]([CH3:3])[O:4][CH3:10]", "epd": [["LP-/Sigma+", [11], [9, 11]], ["Pi-/LP+", [7, 9], [7]], ["LP-/Sigma+", [7], [7, 12]], ["Sigma-/LP+", [4, 12], [4]], ["LP-/Sigma+", [4], [2, 4]], ["Pi-/LP+", [1, 2], [1]], ["LP-/Pi+", [1], [1, 2]], ["Sigma-/LP+", [2, 11], [11]], ["LP-/Pi+", [11], [9, 11]], ["Pi-/LP+", [8, 9], [8]], ["LP-/Sigma+", [8], [8, 13]], ["Sigma-/LP+", [11, 13], [11]]]}
{"reaction_name": "Reductive cleavage of benzyl ethers", "rsmi": "[H+:6].[H-:10].[cH:1]1[cH:4][cH:8][cH:5][cH:2][c:11]1[CH2:9][O:7][CH3:3]>>[CH3:3][O:7][H:6].[cH:1]1[cH:4][cH:8][cH:5][cH:2][c:11]1[CH2:9][H:10]", "epd": [["LP-/Sigma+", [10], [9, 10]], ["Sigma-/LP+", [7, 9], [7]], ["LP-/Sigma+", [7], [6, 7]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:2]([C:14](=[O:15])[c:18]1[cH:9][cH:28][c:16]([N:26]([CH3:19])[CH3:20])[cH:29][cH:10]1)=[S:30]([CH3:12])[CH3:13].[N:1]1([S:4][C:17]([F:5])([F:6])[F:7])[S:3](=[O:22])(=[O:23])[c:8]2[c:25]([cH:24][cH:11][cH:27][cH:32]2)[C:31]1=[O:21]>>[CH:2]([S:4][C:17]([F:5])([F:6])[F:7])([C:14](=[O:15])[c:18]1[cH:9][cH:28][c:16]([N:26]([CH3:19])[CH3:20])[cH:29][cH:10]1)[S+:30]([CH3:12])[CH3:13].[N:1]1=[C:31]([O-:21])[c:25]2[c:8]([cH:32][cH:27][cH:11][cH:24]2)[S:3]1(=[O:22])=[O:23]", "epd": [["Pi-/Sigma+", [2, 30], [2, 4]], ["Sigma-/Pi+", [4, 1], [1, 31]], ["Pi-/LP+", [31, 21], [21]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:3][cH:10][c:8]([CH3:2])[cH:26][c:18]1[O:9][CH3:11].[cH:4]1[c:12]([CH+:25][c:13]2[cH:5][c:16]([F:21])[cH:24][c:17]([F:22])[cH:6]2)[cH:7][c:14]([F:19])[cH:23][c:15]1[F:20]>>[CH:1]1=[CH:3][CH:10]([CH:25]([c:12]2[cH:4][c:15]([F:20])[cH:23][c:14]([F:19])[cH:7]2)[c:13]2[cH:5][c:16]([F:21])[cH:24][c:17]([F:22])[cH:6]2)[C:8]([CH3:2])=[CH:26][C:18]1=[O+:9][CH3:11]", "epd": [["LP-/Pi+", [9], [18, 9]], ["Pi-/Pi+", [26, 18], [8, 26]], ["Pi-/Sigma+", [10, 8], [10, 25]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:6])([Cl:7])[CH:15]=[C:19]([Cl:20])[c:21]2[cH:3][cH:11][cH:17][n:5][c:14]2[C:16]1=[O:13].[cH:2]1[cH:8][c:9]2[c:23]([cH:12][cH:24]1)[CH:22]=[CH:4][CH:18]2[Li:10]>>[Li+:10].[c:1]1([Cl:7])[cH:15][c:19]([Cl:20])[c:21]2[cH:3][cH:11][cH:17][n:5][c:14]2[c:16]1[O-:13].[cH:2]1[cH:8][c:9]2[c:23]([cH:12][cH:24]1)[CH:22]=[CH:4][CH:18]2[Cl:6]", "epd": [["Sigma-/Sigma+", [18, 10], [18, 6]], ["Sigma-/Pi+", [6, 1], [1, 16]], ["Pi-/LP+", [16, 13], [13]]]}
{"reaction_name": "Mixed anhydride coupling", "rsmi": "[NH:3]([CH3:4])[H:12].[O:1]=[C:10]([CH3:2])[O:8][C:5]([O:7][CH2:11][CH3:6])=[O:9]>>[C:5]([O:7][CH2:11][CH3:6])([O:8][H:12])=[O:9].[O:1]=[C:10]([CH3:2])[NH:3][CH3:4]", "epd": [["LP-/Sigma+", [3], [3, 10]], ["Pi-/LP+", [1, 10], [1]], ["LP-/Pi+", [1], [1, 10]], ["Sigma-/LP+", [8, 10], [8]], ["LP-/Sigma+", [8], [8, 12]], ["Sigma-/LP+", [3, 12], [3]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:30](=[O:2])([c:18]1[cH:6][cH:13][c:22]([CH3:31])[cH:14][cH:7]1)[n:23]1[cH:17][c:20]([N+:19](=[O:9])[O-:10])[c:21]2[cH:12][cH:25][c:15]([N+:29](=[O:26])[O-:27])[cH:5][c:24]21.[cH:3]1[n:4][c:16]([O-:11])[cH:32][cH:8][cH:28]1>>[O:1]=[S:30](=[O:2])([c:18]1[cH:6][cH:13][c:22]([CH3:31])[cH:14][cH:7]1)[N:23]1[CH:17]([n:4]2[cH:3][cH:28][cH:8][cH:32][c:16]2=[O:11])[C:20](=[N+:19]([O-:9])[O-:10])[c:21]2[cH:12][cH:25][c:15]([N+:29](=[O:26])[O-:27])[cH:5][c:24]21", "epd": [["Pi-/Sigma+", [3, 4], [4, 17]], ["Pi-/Pi+", [16, 32], [8, 32]], ["Pi-/LP+", [9, 19], [9]], ["LP-/Pi+", [11], [11, 16]], ["Pi-/Pi+", [17, 20], [19, 20]], ["Pi-/Pi+", [8, 28], [3, 28]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[S:1]([c:5]1[cH:25][cH:17][cH:11][cH:18][cH:26]1)([O-:6])=[O:23].[cH:2]1[cH:3][cH:14][cH:7][c:8]2[c:4]1[N+:20]([CH3:10])=[CH:13][C:12]2=[CH:9][c:19]1[cH:15][cH:21][cH:24][cH:22][cH:16]1>>[S+:1]([c:5]1[cH:25][cH:17][cH:11][cH:18][cH:26]1)([O-:6])([CH:9]([c:12]1[c:8]2[c:4]([cH:2][cH:3][cH:14][cH:7]2)[n:20]([CH3:10])[cH:13]1)[c:19]1[cH:15][cH:21][cH:24][cH:22][cH:16]1)=[O:23]", "epd": [["LP-/Sigma+", [1], [1, 9]], ["Pi-/Pi+", [9, 12], [12, 13]], ["Pi-/LP+", [13, 20], [20]]]}
